US08975265B2
A mixture of {1-[4-(7-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (200 mg, 0.43 mmol), sodium azide (336 mg, 5.16 mmol, 12 equiv), NH4Cl (276 mg, 5.16 mmol, 12 equiv) and DMF (4.3 mL) was heated under an argon atmosphere for 3.5 h at 150° C. in a microwave apparatus. The reaction mixture was added to a saturated aqueous NaHCO3 solution (10 mL). The resulting mixture was extracted with a 4:1 CH2Cl2/isopropanol mixture (25 mL). The combined organic phases were dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 25 g SNAP cartridge: 80% hexane/20% EtOAc for 3.0 min., gradient to 70% hexane/30% EtOAc over 13.7 min.) to give (1-{4-[3-Phenyl-7-(2H-tetrazol-5-yl)-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester (0.12 g, 52%):

reactant | {1-[4-(7-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.43 mmol, 200 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C#N)C1C1=CC=CC=C1)=O | C29H28N4O2
reactant | sodium azide | 5.16 mmol, 336 mg, 12 equiv | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 5.16 mmol, 276 mg, 12 equiv | [NH4+].[Cl-]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 4.3 mL | CN(C)C=O | C3H7NO
product | (1-{4-[3-Phenyl-7-(2H-tetrazol-5-yl)-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester | 0.12 g, 52% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C=2N=NNN2)C1C1=CC=CC=C1)=O | C29H29N7O2
